US07081470B2
1-(3-THIENYL)-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE
A mixture of 1-(3-thienyl)-2H-indole-2,3-dione (25 mg, 0.11 mmol) (prepared as described below) and 3-trifluoromethylaniline (14 uL, 0.11 mmol) was heated neat at 140° C. for 2 h. The crude material was purified by preparative TLC using a mixture of 3:7 ethyl acetate and hexane as the eluent, giving the desired product as a yellow solid (7.3 mg, 0.02 mmol, 22%). 1H NMR (400 MHz) δ 7.62–7.19 (m, 9H), 6.94 (d, J=8.0, 1H), 6.76 (t, J=7.6, 1H); ESI-MS m/z found 373 (MH+).

reactant | 1-(3-thienyl)-2H-indole-2,3-dione | 0.11 mmol, 25 mg | S1C=C(C=C1)N1C(C(C2=CC=CC=C12)=O)=O | C12H7NO2S
reactant | 3-trifluoromethylaniline | 0.11 mmol, 14 uL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
product | 1-(3-THIENYL)-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE | 0.02 mmol, 7.3 mg, 22% | S1C=C(C=C1)N1C(C(C2=CC=CC=C12)=NC1=CC(=CC=C1)C(F)(F)F)=O | C19H11F3N2OS
